US07541477B2
Production of 4-(4-fluorophenyl)-N-{2-[isopropyl(methyl)-amino]-1H-benzimidazol-6-yl}-1-piperidinecarboxamide
To a solution of said mixture (157 mg of tert-butyl-2-[isopropyl(methyl)amino]-5-[(phenoxycarbonyl)amino]-1H-benzimidazole-1-carboxylate and tert-butyl 2-[isopropyl(methyl) amino]-6-[(phenoxycarbonyl)amino]-1H-benzimidazole-1-carboxylate in chloroform (3 ml), 4-(4-fluorophenyl)piperidine hydrochloride (76 mg) and triethylamine (0.16 ml) were added and heated at 60° C. for 1.5 hours. The reaction liquid was cooled and after addition of water, extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The organic layer was condensed under reduced pressure and the resulting residue was purified on preparative TLC (hexane/ethyl acetate=1/9). Thus obtained compound was dissolved in trifluoroacetic acid (2 ml) and stirred for an hour. The reaction liquid was made alkaline by addition of 4N-aqueous NaOH solution and extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The organic layer was condensed under reduced pressure and purified on preparative TLC (methanol/chloroform=1/9) to provide the title compound (11 mg).

reactant | tert-butyl-2-[isopropyl(methyl)amino]-5-[(phenoxycarbonyl)amino]-1H-benzimidazole-1-carboxylate | 157 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)NC(=O)OC2=CC=CC=C2)N(C)C(C)C | C23H28N4O4
reactant | tert-butyl 2-[isopropyl(methyl) amino]-6-[(phenoxycarbonyl)amino]-1H-benzimidazole-1-carboxylate | C(C)(C)N(C1=NC2=C(N1C(=O)OC(C)(C)C)C=C(C=C2)NC(=O)OC2=CC=CC=C2)C | C23H28N4O4
reactant | 4-(4-fluorophenyl)piperidine hydrochloride | 76 mg | Cl.FC1=CC=C(C=C1)C1CCNCC1
reactant | NaOH | [OH-].[Na+]
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | triethylamine | 0.16 ml | C(C)N(CC)CC | C6H15N
product | 4-(4-fluorophenyl)-N-{2-[isopropyl(methyl)-amino]-1H-benzimidazol-6-yl}-1-piperidinecarboxamide | 11 mg | FC1=CC=C(C=C1)C1CCN(CC1)C(=O)NC=1C=CC2=C(NC(=N2)N(C)C(C)C)C1 | C23H28FN5O
